US07981883B2
6.b. Synthesis of 1-chloro-1-hydroxyiminomethyl-3-methoxybenzene
N-chlorosuccinimide (32.2 g, 241 mmol) was added to a solution of 3-methoxybenzaldehyde oxime (30.4 g, 201 mmol) in DMF (200 ml) at RT, causing the temperature to rise briefly to 50° C. The reaction mixture was cooled in an ice bath, stirred overnight at RT, mixed with water (250 ml) while being cooled with ice and the precipitate formed was removed by suction-filtration. The filtrate was extracted with ether (3×400 ml) and the combined organic phases were washed with water (300 ml) and sat. aq. NaCl solution (300 ml), dried and the solvent was removed under vacuum. The desired product 1-chloro-1-hydroxyiminomethyl-3-methoxybenzene was obtained as a yellowish solid (32.86 g).

reactant | N-chlorosuccinimide | 241 mmol, 32.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-methoxybenzaldehyde oxime | 201 mmol, 30.4 g | COC=1C=C(C=NO)C=CC1 | C8H9NO2
reactant | water | 250 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-chloro-1-hydroxyiminomethyl-3-methoxybenzene | ClC1(CC(=CC=C1)OC)C=NO | C8H10ClNO2
